US07435823B2
A resealable tube was charged with 4-chloro-3-fluoro-6,7-dimethoxyquinoline (prepared by the method described in WO 98/13350) (0.610 g, 2.52 mmol), 6-hydroxy-1-naphthoic acid (0.474 g, 2.52 mmol), palladium acetate (0.023 g, 0.101 mmol), 2-di-t-butylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl (0.086 g, 0.202 mmol), potassium phosphate (2.14 g, 10.08 mmol), and DMF (12.6 mL, Aldrich). The system was flushed with argon and the tube was sealed. The mixture was stirred at 100° C. for 19 h then cooled to RT. Water (13 mL) was added, and the pH was adjusted to 6-7 with aqueous 6 N HCl solution. The resulting precipitate was filtered, washed with water, and purified by column chromatography on silica gel (eluting with 0-100% (50:50:2, EtOAc:hexane:AcOH)) to afford 6-(3-fluoro-6,7-dimethoxyquinolin-4-yloxy)-1-naphthoic acid as an off-white solid. MS (ESI, pos. ion) m/z: 394.0 (M+H). Mass Calc'd for C22H16FNO5: 393.1

reactant | 4-chloro-3-fluoro-6,7-dimethoxyquinoline | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)F | C11H9ClFNO2
reactant | 6-hydroxy-1-naphthoic acid | 2.52 mmol, 0.474 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | 2-di-t-butylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl | 0.202 mmol, 0.086 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | potassium phosphate | 10.08 mmol, 2.14 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 0.101 mmol, 0.023 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 12.6 mL | CN(C)C=O | C3H7NO
product | 6-(3-fluoro-6,7-dimethoxyquinolin-4-yloxy)-1-naphthoic acid | FC=1C=NC2=CC(=C(C=C2C1OC=1C=C2C=CC=C(C2=CC1)C(=O)O)OC)OC | C22H16FNO5
